US04296126
70 ml of dimethylsulfoxide were added over 10 minutes at 60°-65° C. to a mixture of 20 ml of dimethylsulfoxide and 9.2 g of sodium hydride in a 50% oil disperson and after cooling the mixture to 25° C., 17.28 g of N,N-dimethyl-3-phenyl-3-hydroxy-propanamine were added thereto. The temperature returned to room temperature and 25.2 g of o-chloro-nitrobenzene were added thereto. The mixture was held at 25° C. for one hour and was then extracted with ethyl acetate. The organic phase was washed with water, dried and evaporated to dryness to obtain 41 g of raw product which was taken up twice in 100 ml of N hydrochloric acid. The neutral fraction was extracted twice with 400 ml of ether and the aqueous phase was made alkaline by addition of 50 ml of sodium hydroxide solution. The mixture was extracted with methylene chloride and the organic phase was washed with water, dried and treated with activated carbon. The mixture was filtered and the filtrate was evaporated to dryness to obtain 22 g of N,N-dimethyl-γ-(2-nitrophenoxy)-benzene-propanamine.

reactant | sodium hydride | 9.2 g | [H-].[Na+]
reactant | N,N-dimethyl-3-phenyl-3-hydroxy-propanamine | 17.28 g | CN(CCC(O)C1=CC=CC=C1)C | C11H17NO
reactant | o-chloro-nitrobenzene | 25.2 g | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 70 ml | CS(=O)C | C2H6OS
product | N,N-dimethyl-γ-(2-nitrophenoxy)-benzene-propanamine | 22 g | CN(CCC(C1=CC=CC=C1)OC1=C(C=CC=C1)[N+](=O)[O-])C | C17H20N2O3
